US05665888
Synthesis of methyl (Z)-2-(2-dimethylaminomethylidenaminothiazol-4-yl) -2-pentenoate
Dimethylaminochloromethyleneammonium chloride (830 mg, 6.5 mmol) was added to 12 ml of tetrahydrofuran, and the resulting mixture was ice-cooled. Added to the mixture were 196 mg (0.99 mmol) of (Z)-2-(2-aminothiazol-4-yl)-2-pentenoic acid, followed by stirring for 1 hour. Methanol (10 ml) was added thereto. The mixture so obtained was stirred for 30 minutes. The mixture was then poured into 60 ml of a saturated aqueous solution of sodium hydrogencarbonate. The mixture so obtained was extracted three times with 40 ml portions of ethyl acetate. The extract was dried over anhydrous magnesium sulfate and was then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column, whereby 177 mg of the title compound were obtained (yield: 67%).

reactant | Dimethylaminochloromethyleneammonium chloride | 6.5 mmol, 830 mg | [Cl-].CN(C)[NH+]=CCl
reactant | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
reactant | (Z)-2-(2-aminothiazol-4-yl)-2-pentenoic acid | 0.99 mmol, 196 mg | NC=1SC=C(N1)/C(/C(=O)O)=C/CC | C8H10N2O2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | Methanol | 10 ml | CO | CH4O
product | methyl (Z)-2-(2-dimethylaminomethylidenaminothiazol-4-yl) -2-pentenoate | 177 mg, yield: 67% | CN(C)C=NC=1SC=C(N1)/C(/C(=O)OC)=C/CC | C12H17N3O2S
